US08222266B2
Preparation 11: 5-Methyl-4-pyridin-3-yl-1H-pyrimidin-2-one (Prep11)
2-Methanesulfonyl-5-methyl-4-pyridin-3-yl-pyrimidine (1.3 g, 5.22 mmol) was dissolved in dioxane (80 ml) and then 2N NaOHaq (21 ml, 42 mmol) was added dropwise at room temperature. After stirring for 1 hour, the solution was neutralized with 37% HClaq. The residue was purified by flash chromatography with DCM-MeOH—NH4OH (9-1-0.1) to give 951 mg of the title compound as a light brown powder. (97% yield).

reactant | 2-Methanesulfonyl-5-methyl-4-pyridin-3-yl-pyrimidine | 5.22 mmol, 1.3 g | CS(=O)(=O)C1=NC=C(C(=N1)C=1C=NC=CC1)C | C11H11N3O2S
reactant | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 5-Methyl-4-pyridin-3-yl-1H-pyrimidin-2-one | 951 mg, 97% yield | CC=1C(=NC(NC1)=O)C=1C=NC=CC1 | C10H9N3O
